US06953806B2
To an ice-cooled solution of 135 mg (0.384 mmol) trans-{2-[4-(3-hydroxy-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester and 0.089 ml (0.77 mmol) 2,6-lutidine in 2 ml of dichloromethane was added under stirring 0.033 ml (0.422 mmol) methane sulfonylchloride. The reaction mixture was stirred for 20 hours at room temperature, then taken up in ether and washed with 1N hydrogen chloride solution and water. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure and the residue then chromatographed on silica gel with a 4:1 v/v mixture of hexane and ethylacetate as the eluent giving 90 mg (63.4%) of trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester as colorless viscous oil, MS: 370 (MH+, 2 Cl).

reactant | trans-{2-[4-(3-hydroxy-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester | 0.384 mmol, 135 mg | ClC1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CO)=O | C19H26ClNO3
reactant | 2,6-lutidine | 0.77 mmol, 0.089 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | methane sulfonylchloride | 0.422 mmol, 0.033 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester | 90 mg, 63.4% | ClC1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CCl)=O | C19H25Cl2NO2
